US05225590
In a flask under nitrogen 1.053 gms of glycerol is dissolved in 4 ml of pyridine and 6 ml of methylene chloride and cooled to about -10° C. Then 5.00 gms of (1-adamantanoyl)-chloride (Aldrich Chemical Co.) is added in one portion and stirring is continued for about half an hour with cooling and then another two hours at ambient temperature. The resulting solid is filtered and washed with methylene chloride. The combined organic layers are washed twice with dilute aqueous HCl and then once with water and dried over magnesium sulfate. 1,3-di(1-adamantanoyl) glycerol is isolated as an oil.

reactant | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
reactant | (1-adamantanoyl)-chloride | 5.00 gms | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | glycerol | OCC(O)CO | C3H8O3
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-di(1-adamantanoyl) glycerol | C12(CC3CC(CC(C1)C3)C2)C(=O)OCC(O)COC(=O)C23CC1CC(CC(C2)C1)C3 | C25H36O5
